US04294841
Into a solution consisting of 10.3 ml of pure acetic acid and 18.6 ml of 98% sulfuric acid, cooled to 5° C., are introduced slowly, drop by drop, 25 g of 4-(3-phenylpropyl) pyridine. When this addition has been completed, the solution obtained is cooled to -15° C. and a sulfonitric mixture consisting of 9 ml of nitric acid and 18.6 ml of 98% sulfuric acid is added drop by drop. During the whole of the addition the temperature of the reaction medium is maintained below +10° C. The addition is completed in one hour. The yellow solution obtained is poured into 600 g of a water+ice mixture. The pH is adjusted to 11 by the addition of an aqueous potassium hydroxide solution and the mixture is extracted twice with 200 ml of ether. The ethereal phases are collected and washed with water, dried over magnesium sulfate and concentrated. 29.7 g of 4-[3-(4-nitrophenyl)propyl]pyridine are obtained.

reactant | sulfuric acid | 18.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-(3-phenylpropyl) pyridine | 25 g | C1(=CC=CC=C1)CCCC1=CC=NC=C1 | C14H15N
reactant | nitric acid | 9 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 18.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetic acid | 10.3 ml | C(C)(=O)O | C2H4O2
product | 4-[3-(4-nitrophenyl)propyl]pyridine | 29.7 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCC1=CC=NC=C1 | C14H14N2O2
